US06162916
A mixture of methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate (17.98 g), acetic anhydride (5.16 g) and toluene (73 ml) was stirred at 90° C. for 20 minutes. Methane sulphonic acid (0.49 g) was added to the mixture and the mixture was heated at 90° C. for 1 hour. The mixture was cooled to room temperature, washed with cold water (25 ml) and with hot (50° C.) water (2×25 ml). The organic layer was evaporated at 75° C. (initially on a rotary evaporator, then at circa 15 mm Hg) to leave (E)-methyl 2-[-(6-chloropyrimidin-4-yloxy)phenyl]-3-methoxypropenoate as a solid (16.1 g).

reactant | methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate | 17.98 g | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)C(C(=O)OC)C(OC)OC | C16H17ClN2O5
reactant | acetic anhydride | 5.16 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methane sulphonic acid | 0.49 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 73 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-methyl 2-[-(6-chloropyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | 16.1 g | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C15H13ClN2O4
